US05502073
To a suspension of magnesium turnings (0.55 g.) in dry ether (20 ml.) was added dropwise a solution of methyl iodide (3 g.) in dry ether (10 ml.) at such a rate that the reaction refluxed. After the addition was complete, 3,4,5-trichlorobenzaldehyde (see Process B) (4 g.) was added in dry ether (10 ml.) at a rate that maintained reflux. The reaction was stirred overnight. Saturated ammonium chloride solution was added, followed by dilute hydrochloric acid. The organic layer was separated, dried over anhydrous magnesium sulphate and evaporated to give 1-(3,4,5-trichlorophenyl)ethanol. Nuclear Magnetic Resonance Spectrum (NMR) was as follows; 1.2, 3H, d; 4.2, 1H, s; 4.8, 1H, m; 7.3, 2H, s.

reactant | magnesium | 0.55 g | [Mg] | Mg
reactant | methyl iodide | 3 g | CI | CH3I
reactant | 3,4,5-trichlorobenzaldehyde | 4 g | ClC=1C=C(C=O)C=C(C1Cl)Cl | C7H3Cl3O
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | ether | 10 ml | CCOCC | C4H10O
product | 1-(3,4,5-trichlorophenyl)ethanol | ClC=1C=C(C=C(C1Cl)Cl)C(C)O | C8H7Cl3O
